US07160888B2
Synthesis of 7-{4-[4-(3,4-Dihydro-2H-benzo[b][1,4]dioxepin-6-yl)-piperazin-1-yl]-butoxy}-1H-[1,8]naphthyridin-2-one
In a manner similar to that of other examples above, 1-(3,4-dihydro-2H-benzo[b][1,4]dioxepin-6-yl)-piperazine hydrochloride (J. Med. Chem. 1988, 31, 1934–1940) was coupled by reductive amination to 4-(7-oxo-7,8-dihydro-[1,8]naphthyridin-2-yloxy)-butyraldehyde followed by typical workup and purification to give the title compound. MS: APCI: M+1: 451.2 (Exact Mass: 450.23).

reactant | 1-(3,4-dihydro-2H-benzo[b][1,4]dioxepin-6-yl)-piperazine hydrochloride | Cl.O1C2=C(OCCC1)C(=CC=C2)N2CCNCC2
reactant | 4-(7-oxo-7,8-dihydro-[1,8]naphthyridin-2-yloxy)-butyraldehyde | O=C1C=CC=2C=CC(=NC2N1)OCCCC=O | C12H12N2O3
product | 7-{4-[4-(3,4-Dihydro-2H-benzo[b][1,4]dioxepin-6-yl)-piperazin-1-yl]-butoxy}-1H-[1,8]naphthyridin-2-one | O1C2=C(OCCC1)C(=CC=C2)N2CCN(CC2)CCCCOC2=CC=C1C=CC(NC1=N2)=O | C25H30N4O4
